Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
double vision
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is an ___ M with atrial fibrillation,
hypertension, hypercholesterolemia and marijuana use who
presents to the ED as a referral from his PCP following an
episode of transient diplopia. He explains that he was on the T
this afternoon at 1pm reading, when he suddenly noticed that the
words on his book were double, "like my eyes were suddenly
disconnected". He described skewed/diagonal diplopia, and when
asked if the double vision went away when he closed one eye, he
said "maybe". It did not appear to improve in any particular
direction of gaze. He did not experience any associated symptoms
such as vertigo, headache, dysequilibrium, asymmetric numbness 
or
weakness, facial drooling, dysphagia or dysarthria. The episode
lasted ___ minutes. 

He reports that two months prior he had an identical episode. He
was reading at the time also, and it occurred in the
mid-afternoon. He has never experienced any other episodes of
double vision. He denies having any recent problems with 
weakness
of his arms or neck muscles. He has not noted particularly 
severe
weakness, double vision or eyelid drooping at the end of the 
day.

Review of systems is otherwise negative for fevers, cough,
congestion, flu-like symptoms, headaches, abdominal pain,
dysuria, hematuria, lower extremity edema, rash or any new
medications. 
 
Past Medical History:
asthma, seasonal allergies,
moderate mitral regurgitation, left ventricular hypertrophy,
atrial fibrillation (s/p failed cardioversion x 1), 
hypertension,
hyperlipidemia, history of chronic vertigo, hemorrhoids,
diverticulosis, colonic adenomas, depression, recurrent
nephrolithiasis, sleep apnea, history of EtOH abuse and 
marijuana
abuse and chronic kidney disease. 
 
Social History:
___
Family History:
Family history is negative for neurologic illness. He is
currently unemployed, and use to be active in the ___ business. He still watches plays in his free time, and
is an avid marijuana smoker. He has never smoked cigarettes, and
he drinks one beer/week approximately. He has a history of heavy
EtOH abuse/dependence. 
 
Physical Exam:
On my physical examination, vital signs were 97.3, 72, 117/83,
18, 96%, ___ 85. In general, patient is awake, cooperative,
pleasant and in no apparent distress. He was well appearing,
jovial and appeared younger than his stated age. The patient had
a NCAT head without conjunctival icterus. Mucous membranes were
moist and oropharynx is clear of lesions. Poor dentition. Neck
was supple without masses or thyromegaly. Chest examination
revealed irregularly irregular heart sounds without murmurs, and
lungs were clear to auscultation bilaterally. Belly was soft
without focal tenderness, and extremities were warm and well
perfused. Skin examination showed no rashes or lesions.  

Neurologically, the patient is awake, alert and oriented x 3.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt. was able to name both high and low
frequency objects. Able to read without difficulty. No anomia to
NIHSS objects. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Pt. was able to register 3
objects and recall ___ at 5 minutes. The pt. had good knowledge
of current events. There was no evidence of apraxia or neglect.  


Cranial nerve examination revealed round, equal and reactive
pupils with full visual fields to confrontation. Extraocular
movements were full without dysconjugate gaze, nystagmus or
diplopia per report. There was only transient diplopia on
sustained upgaze without ptosis, but with time, the two images
"reunited". There was no facial asymmetry, ptosis or facial
droop. Hearing is intact grossly. Palate elevates symmetrically,
and the strength of trapezii and SCMs was ___ bilaterally. 
Tongue
was strong bilaterally without atrophy or fasiculations.  

Strength examination showed normal bulk, tone throughout. No
pronator drift bilaterally. No adventitious movements, such as
tremor, noted. No asterixis noted. All major muscle groups were
___. 

The sensory examination revealed no deficits to light touch
throughout. Vibratory sense was ~13s at the great toes. Reflexes
were 1+ in the upper extremities and 0 at the patellae and
ankles. Toes were downgoing. 

Bedside tests of cerebellar function revealed no intention
tremor, dysdiadochokinesia or dysmetria. Gait was narrow based
and steady without truncal ataxia. Romberg was negative. 

Discharge exam is notable for worsening horizontal diplopia with 
sustained upward gaze that abates with rest. No apparent defects 
in extraocular movements. No ptosis after sustaine upward gaze. 
Neurologic exam is otherwise normal.
 
Pertinent Results:
FINDINGS: 
  
MR Brain:  There is no evidence of hemorrhage or new infarction. 
There are 
nonspecific small scattered T2/FLAIR high signal foci throughout 
the brain.  
There is expected evolution of the previously described left 
frontal 
subcortical white matter infarct.  Gray white matter 
differentiation is 
otherwise maintained.  Ventricular, cisternal, and sulcal 
prominence may be a 
function of age-related parenchymal volume loss. The major 
intracranial 
vessels exhibit the expected signal void related to vascular 
flow. 
  
The paranasal sinuses demonstrate scattered mucosal thickening 
with near 
complete opacification of the mastoid and sphenoid sinuses.  The 
right greater 
than left mastoid air cells demonstrate fluid signal and 
inflammatory changes. 
The sella turcica, craniocervical junction, and orbits are 
unremarkable. 
  
MRA Head: Normal flow signal is noted in the petrous, cavernous, 
and 
supraclinoid portions of the internal carotid arteries.  The 
right A1 segment 
is diminutive with an azygos continuation of the anterior 
cerebral artery.  
The middle cerebral arteries appear unremarkable. The posterior 
cerebral 
arteries and basilar artery are unremarkable.  The superior 
cerebellar 
arteries are normal.  The intradural segment of both vertebral 
arteries appear 
patent.  The posterior communicating arteries are diminutive 
bilaterally.  The 
right vertebral artery is dominant. No arterial stenosis, 
saccular aneurysm, 
or AVM is identified.   
  
MRA Neck:  The left vertebral artery is smaller in caliber 
compared to the 
contralateral vessel.  The common, internal, and external 
carotid arteries, as 
well as the vertebral arteries, otherwise demonstrate normal 
flow signal.  No 
stenosis is identified.  The origins of the innominate, left 
common carotid, 
and left subclavian arteries, as well as the vertebral arteries, 
are not well 
evaluated in the absence of intravenous contrast.   
  
IMPRESSION: 
  
Age-related involutional and probable chronic microangiopathic 
changes without 
evidence of acute infarct, hemorrhage, or mass effect.   
  
Unremarkable MR angiogram of the head and neck.   
  
Chronic paranasal sinus disease.   
  
Bilateral mastoiditis.   

CT Head:
FINDINGS: 
  
There is no evidence of intracranial hemorrhage, acute major 
vascular 
territorial infarction, shift of the normally midline 
structures, mass effect 
or edema.  The ventricles and sulci are prominent, compatible 
with age-related 
global atrophy.  Periventricular and subcortical white matter 
hypodensities 
likely reflect the sequelae of chronic small vessel ischemic 
disease.  The 
gray-white matter differentiation is preserved.  No fractures 
are identified.  
The cranial and facial soft tissues are unremarkable.  The 
orbits are 
unremarkable.  Mucosal thickening in the ethmoid air cells, 
bilateral 
maxillary sinuses, and air-fluid levels within the sphenoid 
sinuses with 
aerosolized secretions are noted.  Opacification of the mastoid 
air cells, 
right greater than left is also present.   
  
IMPRESSION: 
  
1.  No acute intracranial process. 
  
2.  Chronic small vessel ischemic changes.  
  
3.  Inflammatory paranasal sinus disease and opacification of 
the bilateral 
mastoid air cells, right greater than left. 

___ 03:45PM   ___ PTT-40.8* ___
___ 03:45PM   PLT COUNT-143*
___ 03:45PM   NEUTS-68.0 ___ MONOS-6.7 EOS-3.2 
BASOS-1.4
___ 03:45PM   WBC-7.5 RBC-4.80 HGB-16.1 HCT-47.8 MCV-99* 
MCH-33.4* MCHC-33.6 RDW-13.5
___ 03:45PM   estGFR-Using this
___ 03:45PM   GLUCOSE-86 UREA N-31* CREAT-1.5* SODIUM-134 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-23 ANION GAP-10
___ 05:39PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 05:39PM URINE  COLOR-Straw APPEAR-Clear SP ___
 
Brief Hospital Course:
Mr. ___ was admitted to the stroke neurology service. MRI did 
not show any signs of stroke or other intracranial process to 
explain his diplopia. Diplopia was elicited with sustained 
upward gaze and worsened with fatigue. Therefore, anti-bodies 
for binding and modulating acetylcholinesterase antibodies were 
sent. MuSK antibodies were also sent. These tests are pending. 
Stroke risk factors were assessed and A1C was wnl, LDL was <60. 
TSH was wnl as well. No changes were made to his medications and 
he was discharged with planned neurology follow up.
 
Medications on Admission:
Albuterol PRN, atorvastatin 10mg
daily, symbicort 2 puffs BID, terazosin 2mg daily, metoprolol ER
75mg daily, valsartan 80mg daily, warfarin 2.5mg tablets 1-2/day
as directed, colace. SINGULAIR is listed as an allergy for this
patient. 
 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
2. Atorvastatin 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Terazosin 2 mg PO HS 
5. Metoprolol Succinate XL 75 mg PO DAILY 
6. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
7. Valsartan 80 mg PO DAILY 
8. Warfarin 2.5 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diplopia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the stroke neurology service at ___ for 
evaluation of your double vision. You had an MRI that did not 
show any signs of stroke. You exam is concerning for a condition 
called Myasthenia ___. We have sent some blood tests for this 
condition which will be followed up when your return to 
neurology clinic.

We did not make any changes to your medications.

It was a pleasure taking care of you during this hospital stay.

Please follow up as below. 
 
Followup Instructions:
___